US08293735B2
To a solution of 1-oxo-2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester (150 mg, 0.624 mmol) in DCM (6 mL) was added TFA (3 mL) and the resulting solution stirred at RT for 1 h. The crude reaction mixture was loaded onto a Isolute® SCX-2 cartridge, washed with MeOH then eluted with 2 M NH3 in MeOH to provide 2,7-diaza-spiro[3.5]nonan-1-one as a colourless oil. To a suspension of 2,7-diaza-spiro[3.5]nonan-1-one (0.624 mmol) in dichloroethane (13 mL) were added 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde (130 mg, 0.458 mmol) and sodium triacetoxyborohydride (146 mg, 0.689 mmol) and the resulting suspension stirred at RT for 18 h. The reaction was quenched with water and loaded onto an Isolute® SCX-2 cartridge, washed with MeOH then eluted with 2 M NH3 in MeOH. The resulting residue was then purified by column chromatography to give the title compound as a white solid (93 mg, 50%)

reactant | 1-oxo-2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester | 0.624 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCC2(CNC2=O)CC1 | C12H20N2O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 2,7-diaza-spiro[3.5]nonan-1-one | C1(NCC12CCNCC2)=O | C7H12N2O
